### PR TITLE
[Merged by Bors] - feat(positivity): positivity extension for `a - b`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR adds support in `positivity` for proving things about subtraction. For example, if the goal is `0 < a - b`, and there is a local hypothesis of type `b < a`, then we close the goal.

The motivation is that we want `positivity` to be a flexible tactic. So, when trying to prove `0 < a - b` using a local hypothesis, we should look for the simp normal form of this, which is `b < a`.

---

[Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Can.20I.20make.20positivity.20work.20for.20this.3F/near/578277240)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by j-loreaux** [comment]
!radar

File: Mathlib/Tactic/Positivity/Basic.lean [hunk 1]
```diff
@@ -176,11 +173,52 @@ such that `positivity` successfully recognises both `a` and `b`. -/
...
+such that there is a local hypothesis `b < a`, `b ≤ a`, `a ≠ b` or `b ≠ a`. -/
+@[positivity _ - _] def evalSub : PositivityExt where eval {u α} _zα pα e := do
+  let .app (.app (f : Q($α → $α → $α)) (a : Q($α))) (b : Q($α)) ← whnfR e | throwError "not -"
+  let _e_eq : $e =Q $f $a $b := ⟨⟩
+  let _a ← synthInstanceQ q(AddGroup $α)
+  assumeInstancesCommute
+  let ⟨_f_eq⟩ ← withDefault <| withNewMCtxDepth <| assertDefEqQ q($f) q(HSub.hSub)
+  let mut result := .none
+  for decl in ← getLCtx do
+    if !decl.isImplementationDetail then
```
Comment (joneugster) [inline Mathlib/Tactic/Positivity/Basic.lean]:
```suggestion
    unless decl.isImplementationDetail do
```
optional

**Review by joneugster — APPROVED** [review]
@JovanGerb could you maybe start a (or find an existing) public Zulip discussion including Heather about whether this is a good extension and link/report outcomes here?

Alternatively, if it is still a controversial topic, we could merge this extension without the attribute and add instructions in the right places (docstrings of th `evalSub` and of `positivity`) that it can be enabled locally with

```lean4
attribute [positivity _ - _] Mathlib.Meta.Positivity.evalSub
```

The implementation itself looks spotless, thanks!

File: MathlibTest/positivity.lean
Comment (joneugster) [inline MathlibTest/positivity.lean]:
```suggestion
  positivity
```

there is already a test in the test file which can be simplified now.

Comment (joneugster) [reply MathlibTest/positivity.lean]: thanks

**Comment by joneugster** [comment]
The Zulip discussion has not seen any activity after my question about opinions, therefore I'm going to follow best judgement. I think this extension makes a lot of sense and suggest

maintainer merge

File: Mathlib/Tactic/Positivity/Basic.lean [hunk 2]
```diff
@@ -176,11 +173,52 @@ such that `positivity` successfully recognises both `a` and `b`. -/
...
+      have e' : Q(Prop) := decl.type
+      have p : Q($e') := .fvar decl.fvarId
+      result ← orElse result do
+        match e' with
+        | ~q(@LE.le.{u} $β $le $lo $hi) =>
+          let .defEq (_ : $α =Q $β) ← isDefEqQ α β | return .none
+          let .defEq _ ← isDefEqQ q($le) q(($pα).toLE) | return .none
+          let .defEq (_ : $a =Q $hi) ← isDefEqQ a hi | return .none
+          let .defEq (_ : $b =Q $lo) ← isDefEqQ b lo | return .none
+          let _ ← synthInstanceQ q(AddRightMono $α)
```
Comment (Vierkantor) [inline Mathlib/Tactic/Positivity/Basic.lean:196]: These defeq checks are done at default transparency, right? I am worried they will be too expensive. Do they still work okay at `withReducible`(`AndInstances`) transparency? (Also below.)

**Review by Vierkantor — APPROVED** [review]
I think the diff makes clear that this extension is useful. And only handling local hypotheses makes this *more* predictable IMO, since it means we have no specialized logic for `a < b`. (Going in that direction was the main reason that Heather convinced me the previous attempt was not a good idea.)

I'm going to go for a **weak accept** here, if that's allowed in our reviewing system :)

File: Mathlib/Tactic/Positivity/Basic.lean (hunk 2 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Positivity/Basic.lean:196]: I agree that it is a bit strange that we use `default` transparency here. The reason why I did this is to match the other parts of `positivity`. It can solve
```
import Mathlib

example (a b : ℝ) (h : 0 < id a - b) : 0 < a - b := by
  positivity
```
So then I think it should also be able to solve
```
example (a b : ℝ) (h : b < id a) : 0 < a - b := by
  positivity
```
Would you like me to add a test for this? or maybe try changing the transparency in the other places as well?

**Review by j-loreaux — APPROVED** [review]
I'm happy with this. I think the transparency issue should maybe be fixed, but since it's an issue with `positivity` more generally, I don't think it needs to be part of this PR. Since this PR is a bit controversial, I will not merge myself, but rather just add my approval.

**Comment by joneugster** [comment]
> I think the transparency issue should maybe be fixed, but since it's an issue with `positivity` more generally, I don't think it needs to be part of this PR.

@JovanGerb indeed, a follow-up looking at the transparency (for the entire positivity tactic) would be appreciated if you're keen.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge

**Comment by JovanGerb** [comment]
bors retry
